US06632909B2
The preparation is carried out analogously to Example 2 from 0.76 g (4.22 mmol) of 4-hydroxy-3-propoxybenzaldehyde and 1.48 g (4.43 mmol) of methyl (triphenylphosphoranylidene)acrylate and gave 0.78 g of methyl (E)-4-hydroxy-3-propoxycinnamate.

reactant | 4-hydroxy-3-propoxybenzaldehyde | 4.22 mmol, 0.76 g | OC1=C(C=C(C=O)C=C1)OCCC | C10H12O3
reactant | methyl (triphenylphosphoranylidene)acrylate | 4.43 mmol, 1.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=C=CC(=O)OC | C22H19O2P
product | methyl (E)-4-hydroxy-3-propoxycinnamate | 0.78 g | OC1=C(C=C(/C=C/C(=O)OC)C=C1)OCCC | C13H16O4
